US05180418
While stirring at room temperature, 3 ml of thionyl chloride are added to a solution of 1 g of 1-[2-chloro-4-fluoro-5-(1,2,3,4,5,6-hexahydro-1,3-dioxo-isoindolyl)-phenylthio]-cyclopropanecarboxylic acid and one drop of dimethylformamide in 40 ml of ethylene chloride and the reaction mixture is then heated under reflux for 3 hours. Concentration of the reaction mixture by evaporation yields 1 g of 1-[2-chloro-4-fluoro-5-(1,2,3,4,5,6-hexahydro-1,3-dioxo-isoindolyl)-phenylthio]-cyclopropanecarboxylic acid chloride in the form of an oil.

reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-[2-chloro-4-fluoro-5-(1,2,3,4,5,6-hexahydro-1,3-dioxo-isoindolyl)-phenylthio]-cyclopropanecarboxylic acid | 1 g | ClC1=C(C=C(C(=C1)F)N1C(C2=CCCCC2C1=O)=O)SC1(CC1)C(=O)O | C18H15ClFNO4S
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | ethylene chloride | 40 ml | C(CCl)Cl | C2H4Cl2
product | 1-[2-chloro-4-fluoro-5-(1,2,3,4,5,6-hexahydro-1,3-dioxo-isoindolyl)-phenylthio]-cyclopropanecarboxylic acid chloride | 1 g | ClC1=C(C=C(C(=C1)F)N1C(C2=CCCCC2C1=O)=O)SC1(CC1)C(=O)Cl | C18H14Cl2FNO3S
